US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (30 mg, 0.065 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (42 mg, 0.150 mmol) to afford the desired product (20 mg, 57%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 8.73 (s, 1H), 8.33 (d, J=1.7 Hz, 1H), 8.07-7.97 (m, 2H), 7.33 (d, J=2.1 Hz, 1H), 7.26 (d, J=2.1 Hz, 1H), 4.00 (s, 3H), 3.75-3.68 (m, 4H), 3.55 (d, J=12.7 Hz, 2H), 3.25-3.15 (m, 2H), 2.61-2.41 (m, 5H), 2.36 (d, J=6.9 Hz, 2H), 2.07-1.90 (m, 3H), 1.68-1.54 (m, 2H), 1.37-1.27 (m, 2H), 1.26-1.20 (m, 2H); ESI MS m/z 536 [C30H34ClN3O4+H]+; HPLC>99% (AUC), tR=10.57 min.

reactant | {6-bromo-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 0.065 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCOCC1 | C23H28BrN3O2
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 42 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 20 mg, 57% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCOCC1 | C30H34ClN3O4
